US04324894
A mixture of 12 g (0.051 mole) of 1-bromo-3-amino-4-methylisoquinoline and 120 ml of morpholine is refluxed for 6 hours, then diluted with water. 8.5 g (83%) of 1-morpholinyl-3-amino-4-methylisoquinoline are obtained.

reactant | 1-bromo-3-amino-4-methylisoquinoline | 0.051 mole, 12 g | BrC1=NC(=C(C2=CC=CC=C12)C)N | C10H9BrN2
reactant | morpholine | 120 ml | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 1-morpholinyl-3-amino-4-methylisoquinoline | 8.5 g, 83% | N1(CCOCC1)C1=NC(=C(C2=CC=CC=C12)C)N | C14H17N3O
